US07067658B2
To 1-chloro-4-fluoro-2-iodo-5-methoxy-benzene (10.0 g, 34.9 mmol) in THF (70 mL) was cooled to −78° C. was added triisopropylborate (8.9 mL, 38.4 mmol) followed by dropwise addition of n-butyl lithium (24 mL of a 1.6 M solution in hexanes, 38.4 mL). The solution was stirred and allowed to warm to room temperature over night by dissipation of the dry ice/acetone bath. 1N HCl (50 mL0 and water (50 mL) were added and the solution stirred at room temperature for 1 h. The solution was extracted with ethyl acetate. The organic layers were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue was triturated with 1:1 hexanes/diethyl ether and the solid collected by filtration to give 3.8 g (53%) of pure 1-chloro-4-fluoro-2-iodo-5-methoxyphenyl boronic acid: 1H NMR (400 MHz, CDCl3): δ 7.64 (d, J=11.7 Hz, 1H), 6.91 (d, J=7.3 Hz, 1H), 5.21 (br s, 2H), 3.90 (s, 3H).

reactant | 1-chloro-4-fluoro-2-iodo-5-methoxy-benzene | 34.9 mmol, 10.0 g | ClC1=C(C=C(C(=C1)OC)F)I | C7H5ClFIO
reactant | triisopropylborate | 38.4 mmol, 8.9 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | HCl | 1N | Cl | ClH
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 1-chloro-4-fluoro-2-iodo-5-methoxyphenyl boronic acid | 3.8 g, 53% | ClC1(C(C=C(C(=C1)OC)F)I)B(O)O | C7H8BClFIO3
